US04933355
2-tritylaminothiazole-4-carbaldehyde
A mixture comprising 0.5 g of 2-tritylaminothiazole-4-methanol, 5 g of manganese dioxide and 20 ml of acetone was stirred at room temperature for 60 hours. The manganese dioxide was filtered off and the filtrate was evaporated under reduced pressure. The residue was purified by silica gel column chromatography. using as eluent a 10:1 by volume mixture of benzene and ethyl acetate, giving the desired compound as a brownish-orange powder.

reactant | 2-tritylaminothiazole-4-methanol | 0.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)CO | C23H20N2OS
catalyst | manganese dioxide | 5 g | [O-2].[O-2].[Mn+4]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 2-tritylaminothiazole-4-carbaldehyde | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)C=O | C23H18N2OS
